US08440829B2
Ethyl 5-[1-[(2S)-2-methoxypropyl]-3-methyl-2-oxo-imidazo[4,5-c]quinolin-8-yl]pyridine-3-carboxylate
To a three-necked flask containing 8-bromo-1-[(2S)-2-methoxypropyl]-3-methyl-imidazo[4,5-c]quinolin-2-one (35 g, 100 mmol), ethyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-3-carboxylate (29.1 g, 105 mmol), sodium ethyl acetate (28.7 g, 350 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane (0.817 g, 1.0 mmol) add 1,4-dioxane (200 mL) and water (200 mL) under N2. Then heat the reaction mixture to 85° C. and continue stirring for 10 hours. Cool the reaction mixture to room temperature. Filter the mixture with Kieselguhr® Silica-Thiol to remove the catalyst. Add water (400 mL) drop wise and solid precipitates. Filter the mixture and wash the solid with water (400 mL). Stir the solid in ethyl acetate (70 mL) at room temperature for one hour; filter, wash with ethyl acetate (70 mL), and dry under vacuum below 65° C. to give the title compound (33.6 g, 80%). 1H NMR (CDCl3, 400 MHz) δ 9.25 (d, 1H, J=2 Hz), 9.15 (d, 1H, J=2.4 Hz), 8.75 (s, 1H), 8.73 (d, 1H, J=1.6 Hz), 8.65 (t, 1H), 8.24 (d, 1H, J=8.8 Hz), 7.89 (dt, 1H, J=8.8, 1.6 Hz), 4.47 (q, 2H), 4.38 (m, 2H), 3.90 (m, 1H), 3.64 (s, 3H), 3.26 (s, 3H), 1.45 (t, 3H), 1.37 (d, 3H, J=6 Hz).

reactant | 8-bromo-1-[(2S)-2-methoxypropyl]-3-methyl-imidazo[4,5-c]quinolin-2-one | 100 mmol, 35 g | BrC1=CC=2C3=C(C=NC2C=C1)N(C(N3C[C@H](C)OC)=O)C | C15H16BrN3O2
reactant | ethyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-3-carboxylate | 105 mmol, 29.1 g | CC1(OB(OC1(C)C)C=1C=C(C=NC1)C(=O)OCC)C | C14H20BNO4
reactant | sodium ethyl acetate | 350 mmol, 28.7 g | C(C)(=O)OCC.[Na]
reactant | 1,4-dioxane | 200 mL | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane | 1.0 mmol, 0.817 g | ClCCl.[Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | water | 200 mL | O | H2O
product | Ethyl 5-[1-[(2S)-2-methoxypropyl]-3-methyl-2-oxo-imidazo[4,5-c]quinolin-8-yl]pyridine-3-carboxylate | 33.6 g, 80% | CO[C@H](CN1C(N(C=2C=NC=3C=CC(=CC3C21)C=2C=C(C=NC2)C(=O)OCC)C)=O)C | C23H24N4O4
